US07888347B2
1,1-Dimethylethyl 2-[4-(1-piperidinyl)phenyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (D33)
A solution of 1,1-dimethylethyl 2-(4-bromophenyl)-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (may be prepared as described in Description 12) (150 mg, 0.38 mmol), piperidine (76 μl, 0.76 mmol), [2′-(dicyclohexylphosphanyl)-2-biphenylyl]dimethylamine (24 mg, 0.06 mmol), tris(dibenzylideneacetone)dipalladium(0) (174 mg, 0.20 mmol), and sodium tert-butoxide (73 mg, 0.76 mmol) in dioxan (4.5 ml) was heated at 120° C. in the microwave (normal absorption) for 30 min. The reaction mixture was diluted with methanol and then purified by SCX, eluting with methanol and then 2M ammonia/methanol. The basic fractions were combined and solvent evaporated in vacuo. The crude product was purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate in hexane (0-50%) to afford the title compound. MS (ES+) m/e 397 [M+H]+.

reactant | 1,1-dimethylethyl 2-(4-bromophenyl)-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | 0.38 mmol, 150 mg | BrC1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C18H22BrN3O2
reactant | piperidine | 0.76 mmol, 76 μl | N1CCCCC1 | C5H11N
reactant | [2′-(dicyclohexylphosphanyl)-2-biphenylyl]dimethylamine | 0.06 mmol, 24 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | sodium tert-butoxide | 0.76 mmol, 73 mg | CC(C)([O-])C.[Na+]
solvent | dioxan | 4.5 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.20 mmol, 174 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-Dimethylethyl 2-[4-(1-piperidinyl)phenyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | N1(CCCCC1)C1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C23H32N4O2
